US06727264B1
N-{3-[1-(6-{[([1,1′-BIPHENYL]-4-YLAMINO)CARBONYL]AMINO}HEXYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE:
Prepared by Procedure Q1 (THF) and Scheme AT using N-{3-[1-(6-aminohexyl)-4-piperidinyl]phenyl}-2-methylpropanamide and 4-biphenyl isocyanate: ESMS m/e: 541.3 (M+H)+.

reactant | N-{3-[1-(6-aminohexyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C21H35N3O
reactant | 4-biphenyl isocyanate | C1=CC=C(C=C1)C2=CC=C(C=C2)N=C=O | C13H9NO
solvent | THF | C1CCOC1 | C4H8O
product | N-{3-[1-(6-{[([1,1′-BIPHENYL]-4-YLAMINO)CARBONYL]AMINO}HEXYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE | C1(=CC=C(C=C1)NC(=O)NCCCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C34H44N4O2
